US08383615B2
Step 1: Synthesis of (S)-1-(4-Chloro-phenyl)-4-oxo-azetidine-2-carboxylic acid
To a stirred suspension of (S)-4-oxo-azetidine-2-carboxylic acid (1.0 g; 8.689 mmol) in 1,2-dichloroethane (35 mL) 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU) (3.1 mL; 20.854 mmol) is added at room temperature. After 10 min di-μ-hydroxy-bis[N,N,N′,N′-tetramethylenediamine)-copper (II) chloride (Cu-TMEDA) (1.614 g; 3.476 mmol) is added to the clear solution. The mixture is stirred for 10 min and 4-chlorophenylboronic acid (1.495 g; 9.558 mmol) is added. After 20 hours, solvent is evaporated in vacuo, the concentrate taken up in saturated sodium bicarbonate solution (150 mL) and the aqueous layer is washed with ethyl acetate (3×100 mL). The aqueous layer is treated with 1N hydrochloric acid to pH 2 and extracted with ethyl acetate (3×100 mL). Combined organic extracts washed with brine (2×50 mL), dried over anhydrous sodium sulfate and solvent removed in vacuo to give the title compound as an off-white solid, m/z 226 [M+H+]

reactant | (S)-4-oxo-azetidine-2-carboxylic acid | 8.689 mmol, 1.0 g | O=C1C[C@H](N1)C(=O)O | C4H5NO3
reactant | 1,2-dichloroethane | 20.854 mmol, 35 mL | ClCCCl | C2H4Cl2
reactant | 4-chlorophenylboronic acid | 9.558 mmol, 1.495 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | (S)-1-(4-Chloro-phenyl)-4-oxo-azetidine-2-carboxylic acid | ClC1=CC=C(C=C1)N1[C@@H](CC1=O)C(=O)O | C10H8ClNO3
